US07432392B2
Sodium hydride (210 mg) was suspended in DMF (10 mL), and the suspension was cooled to 0° C. and thereto were added benzyl alcohol (568 mg) and a solution of 5-chloro-N,N-dimethyl-2-nitrobenzamide (1.00 g) in DMF (2 mL). The mixture was stirred at 50° C. for 0.5 hour and then concentrated. The residue was acidified with 2N hydrochloric acid and extracted with ethyl acetate. The extract was washed with water and concentrated. The residue was purified by column chromatography on silica gel (ethyl acetate:hexane=1:2→2:3) to give 5-benzyloxy-N,N-dimethyl-2-nitrobenzamide (1.18 g)

reactant | Sodium hydride | 210 mg | [H-].[Na+]
reactant | benzyl alcohol | 568 mg | C(C1=CC=CC=C1)O | C7H8O
reactant | 5-chloro-N,N-dimethyl-2-nitrobenzamide | 1.00 g | ClC=1C=CC(=C(C(=O)N(C)C)C1)[N+](=O)[O-] | C9H9ClN2O3
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 5-benzyloxy-N,N-dimethyl-2-nitrobenzamide | 1.18 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C(=O)N(C)C)C1)[N+](=O)[O-] | C16H16N2O4
